US06664291B2
N-Cyclobutyl-2-hydroxy-5-[4-(2-hydroxy-acetylamino)-2,6-dimethyl-phenoxy]-N-methyl-benzamide
To a solution of 5-[4-(2-benzyloxy-acetylamino)-2,6-dimethyl-phenoxy]-N-cyclobutyl-2-hydroxy-N-methyl -benzamide (50 mg) in EtOAc (2.0 mL) was added catalyst 10% Pd/C (10 mg). The reaction mixture was hydrogenated under 50 psi at room temperature for 2 h. The catalyst was removed by filtration and the filtrate was concentrated to give the title compound of Step B and Example 9 (40 mg) as a white solid. MS (APCl−) Calc.: 398.2, Found: 397.2 (M−1).

reactant | 5-[4-(2-benzyloxy-acetylamino)-2,6-dimethyl-phenoxy]-N-cyclobutyl-2-hydroxy-N-methyl -benzamide | 50 mg | C(C1=CC=CC=C1)OCC(=O)NC1=CC(=C(OC=2C=CC(=C(C(=O)N(C)C3CCC3)C2)O)C(=C1)C)C | C29H32N2O5
solvent | EtOAc | 2.0 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | N-Cyclobutyl-2-hydroxy-5-[4-(2-hydroxy-acetylamino)-2,6-dimethyl-phenoxy]-N-methyl-benzamide | C1(CCC1)N(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)NC(CO)=O)C)O)=O)C | C22H26N2O5
